US08084649B2
1-Triphenylphosphoranylidene-2-propanone (12.77 g, 40.0 mmol) is added to a solution of 3-(ethylthio)butyraldehyde (5.30 g, 40.0 mmol) in dichloromethane (100 ml) and the mixture is heated under reflux for 24 hours. The reaction mixture is cooled to room temperature, and the solvent evaporated in vacuo to give a beige solid. The crude product is taken up in a 1:1 mixture of hexane:ether (the insoluble material is discarded), and then concentrated under reduced pressure to give an orange oil which is further purified by column chromatography on silica gel to give 6-(ethylthio)hept-3-en-2-one as a yellow oil.

reactant | 1-Triphenylphosphoranylidene-2-propanone | 40.0 mmol, 12.77 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | 3-(ethylthio)butyraldehyde | 40.0 mmol, 5.30 g | C(C)SC(CC=O)C | C6H12OS
reactant | hexane | CCCCCC | C6H14
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-(ethylthio)hept-3-en-2-one | C(C)SC(CC=CC(C)=O)C | C9H16OS
